US05047228
60 g 5-cyano-2,4,6-triiodoisophthalic acid monomethylamide is heated in 150 ml of dimethylformamide with 22 g of sodium carbonate (anhydrous) and 28 g of 1-chloro-2,3-propanediol for 4 hours to 90° C. The mixture is then cooled, vacuum-filtered from the precipitated sodium chloride, and concentrated to dryness under vacuum. The residue is dissolved in 250 ml of ethyl acetate, the solution is filtered over active carbon, and the filtrate is concentrated to half its volume. The product is cooled in an ice bath and gently combined with such an amount of diisopropyl ether that crystallization sets in. After stirring for several, hours in an ice bath, the crystallized product is vacuum-filtered, washed with diisopropyl ether, and dried at 50° C., thus obtaining 48.5 g (=74% of theory) of 5-cyano-3-methylcarbamoyl-2,4,6-triiodobenzoic acid (2,3-dihydroxypropyl)ester as a white powder, mp 117-120° C.

reactant | 5-cyano-2,4,6-triiodoisophthalic acid monomethylamide | 60 g | CNC(C1=C(C(C(=O)O)=C(C(=C1I)C#N)I)I)=O | C10H5I3N2O3
reactant | sodium carbonate | 22 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1-chloro-2,3-propanediol | 28 g | ClCC(CO)O | C3H7ClO2
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 5-cyano-3-methylcarbamoyl-2,4,6-triiodobenzoic acid (2,3-dihydroxypropyl)ester | 48.5 g, 74% | OC(COC(C1=C(C(=C(C(=C1I)C#N)I)C(NC)=O)I)=O)CO | C13H11I3N2O5
